US20010036946A1
1-[N2-[N-[[[2-(2-methoxyphenyl)ethyl]amino]carbonyl]-3,5-dibromo-D-tyrosyl]-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine
To a solution of 1.0 g (1.34 mmol) of 1-[N2-(-3,5-dibromo-D-tyrosyl)-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine in 80 ml of tetrahydrofuran were added 0.28 g (1.6 mmol) of 2-methoxyphenethyl isocyanate and the mixture was stirred for 3 days at room temperature. The reaction mixture was evaporated down in vacuo and the residue was purified by column chromatography (MN-silica gel 60, Macherey-Nagel, 70-230 mesh ASTM, eluant: methylene chloride/methanol/cyclohexane/ammonia =350/75/75/10 (v/v/v/v)). 0.5 g (40% of theory) of a colourless amorphous solid was obtained. IR (KBr): 1639 cm−1 (C═O) Rf: 0.49 (FM1) ESI-MS: (M+H)+=922/924/926 (Br2)

reactant | 1-[N2-(-3,5-dibromo-D-tyrosyl)-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine | 1.34 mmol, 1.0 g | BrC=1C=C(C[C@@H](N)C(=O)N[C@@H](CCCCNC(=O)OCC2=CC=CC=C2)C(=O)N2CCN(CC2)C2=CC=NC=C2)C=C(C1O)Br | C32H38Br2N6O5
reactant | 2-methoxyphenethyl isocyanate | 1.6 mmol, 0.28 g | COC1=C(CCN=C=O)C=CC=C1 | C10H11NO2
reactant | KBr | [K+].[Br-]
reactant | Br2 | BrBr | Br2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 1-[N2-[N-[[[2-(2-methoxyphenyl)ethyl]amino]carbonyl]-3,5-dibromo-D-tyrosyl]-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine | COC1=C(C=CC=C1)CCNC(=O)N[C@H](CC1=CC(=C(C(=C1)Br)O)Br)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1CCN(CC1)C1=CC=NC=C1 | C42H49Br2N7O7
